US06384065B1
In 4 ml of methanol was suspended 0.40 g of (3R)-4-benzoyl-8-[4-(methoxycarbonyl)phenoxy]-1-thia-4-azaspiro[4.5]decane-3-carboxylic acid. After adding thereto 4.40 ml of 1 mol/L aqueous solution of sodium hydroxide at 0-5° C., the resulting mixture was stirred at ambient temperature for 6 hours. The reaction mixture was poured into ice water, pH was adjusted to 2.0 with 2 mol/L hydrochloric acid, and then the product was extracted with ethyl acetate. The organic layer was washed successively with water and saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Ethyl ether and ethyl acetate was added to the residue, and the deposited crystal was collected by filtration to obtain 0.30 g of (3R)-4-benzoyl-8-(4-carboxyphenoxy)-1-thia-4-azaspiro[4.5]-decane-3-carboxylic acid as a colorless crystalline product.

reactant | (3R)-4-benzoyl-8-[4-(methoxycarbonyl)phenoxy]-1-thia-4-azaspiro[4.5]decane-3-carboxylic acid | 0.40 g | C(C1=CC=CC=C1)(=O)N1[C@@H](CSC12CCC(CC2)OC2=CC=C(C=C2)C(=O)OC)C(=O)O | C24H25NO6S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | methanol | 4 ml | CO | CH4O
product | (3R)-4-benzoyl-8-(4-carboxyphenoxy)-1-thia-4-azaspiro[4.5]-decane-3-carboxylic acid | 0.30 g | C(C1=CC=CC=C1)(=O)N1[C@@H](CSC12CCC(CC2)OC2=CC=C(C=C2)C(=O)O)C(=O)O | C23H23NO6S
